US06777549B2
Solutions A and B are produced according to a method as described in Example 2, but using in solution A 18.57 g of 7-aminocephalosporanic acid instead of 18.57 g of 7-amino-3-{[(2,5-dihydro-6-hydroxy-2-methyl-5-oxo-as-triazin-3-yl)thio]methyl}-3-cephem-4-carboxylic acid. While stirring the mixture obtained is poured onto an ice-cooled suspension of potassium bicarbonate in a mixture of water and 2-propanol. The pH of the two-phase system obtained is adjusted to 2.0 with 2 N HCl. The organic phase is separated off and treated with 7.5 ml of water and 3.81 g thiourea while stirring. The pH of the mixture is kept between 3.0 and 3.5 by addition of a solution of 2-amino-2,4,4-trimethylpentane in dichloromethane. A precipitate is obtained. 2-Propanol is added to the suspension obtained while stirring and the precipitate is isolated and dried. 7-[2-(Aminothiazol-4-yl)-2(Z)-methoximino)acetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid is obtained.

reactant | 7-aminocephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | HCl | 2 N | Cl | ClH
solvent | water | O | H2O
solvent | 2-propanol | CC(C)O | C3H8O
product | 3-acetoxymethyl-3-cephem-4-carboxylic acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2)=O | C10H11NO5S
